US07799814B2
To a solution of ammonium thiocyanate (17.8 g, 0.234 mol) in dry acetone (200 ml) at 0° C. under nitrogen is added benzoyl chloride (30 g, 0.213 mol) slowly over a period of 15 min. The reaction mixture is stirred at room temperature for 30min and filtered. To the filtrate is added 2-amino pyrazine (16.2 g, 0.17 mol) dropwise and stirred for 3 h at room temperature. The solvent is removed under vacuum and the residue is diluted with water. The solid precipitated is filtered and dried to afford N-[(pyrazin-2-ylamino)carbonothioyl]benzamide as a solid (33 g; 76%). TLC—Chloroform/methanol (9/1): Rf−0.5.

reactant | ammonium thiocyanate | 0.234 mol, 17.8 g | [S-]C#N.[NH4+]
reactant | benzoyl chloride | 0.213 mol, 30 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-amino pyrazine | 0.17 mol, 16.2 g | NC1=NC=CN=C1 | C4H5N3
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | N-[(pyrazin-2-ylamino)carbonothioyl]benzamide | N1=C(C=NC=C1)NC(=S)NC(C1=CC=CC=C1)=O | C12H10N4OS
